US07659263B2
Production of methyl 6-cyclohexyl-5-[2-(2-methanesulfonyloxyethoxy)-3-nitrophenyl]-4H-thieno[3,2-b]pyrrole-2-carboxylate
To a solution of methyl 6-cyclohexyl-5-[2-(2-hydroxyethyloxy)-3-nitrophenyl]-4H-thieno[3,2-b]pyrrole-2-carboxylate (628 mg, 1.41 mmol) in chloroform (10 ml) were added triethylamine (0.230 ml, 1.65 mmol) and methanesulfonyl chloride (0.120 ml, 1.55 mmol) in this order under ice-cooling, and the mixture was stirred at room temperature for 1 hr. Water was added to the reaction mixture, and the mixture was extracted with chloroform. The organic layer was washed with 1N hydrochloric acid, saturated aqueous sodium hydrogen carbonate solution and saturated brine in this order, and dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under reduced pressure. The obtained methyl 6-cyclohexyl-5-[2-(2-methanesulfonyloxyethoxy)-3-nitrophenyl]-4H-thieno[3,2-b]pyrrole-2-carboxylate was used for Step 5 without further purification.

reactant | methyl 6-cyclohexyl-5-[2-(2-hydroxyethyloxy)-3-nitrophenyl]-4H-thieno[3,2-b]pyrrole-2-carboxylate | 1.41 mmol, 628 mg | C1(CCCCC1)C=1C2=C(NC1C1=C(C(=CC=C1)[N+](=O)[O-])OCCO)C=C(S2)C(=O)OC | C22H24N2O6S
reactant | triethylamine | 1.65 mmol, 0.230 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.55 mmol, 0.120 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | Water | O | H2O
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl 6-cyclohexyl-5-[2-(2-methanesulfonyloxyethoxy)-3-nitrophenyl]-4H-thieno[3,2-b]pyrrole-2-carboxylate | C1(CCCCC1)C=1C2=C(NC1C1=C(C(=CC=C1)[N+](=O)[O-])OCCOS(=O)(=O)C)C=C(S2)C(=O)OC | C23H26N2O8S2
